US08497356B2
N-Boc-(2-(aminooxy)ethyl) 2-bromo-2-methylpropanoate.
A solution of N-Boc-2-(aminooxy)ethanol (14.5 g, 81.8 mmol) and the NHS ester of 2-bromoisobutyric acid (22.2 g, 84 mmol) in anhydrous dichloromethane (300 mL) was cooled in an ice bath. Anhydrous triethylamine (11.5 mL, 83 mmol, 1.01 eq.) and N,N-dimethylaminopyridine (1 g, 8.2 mmol, 10 mol %) were added. The ice bath was removed and the reaction was allowed to warm to room temperature and stirring was continued for 18 h. The reaction mixture was concentrated to dryness under reduced pressure giving a viscous oil, which was loaded onto a silica gel column (about 200 g SiO2). Gradient elution (100% hexanes→15% ethyl acetate in hexanes) afforded the product as a pale, clear oil (20.8 g, 78%). (Rf=0.74, ethyl acetate:hexanes (1:2)). 1H NMR (CDCl3, 300 MHz): δ 7.42 (s, 1H), 4.40 (apparent t, J=3.0 Hz, 2H), 4.05 (apparent t, J=3.0 Hz, 2H), 1.92 (s, 6H), 1.45 (s, 9H). 13C NMR (CDCl3, 300 MHz): δ 172.2, 156.9, 82.1, 74.0, 63.3, 55.8, 31.0, 28.4. EIMS m/z: 348, ([M+Na]+), 350 ([M+Na]+).

reactant | N-Boc-2-(aminooxy)ethanol | 81.8 mmol, 14.5 g | C(=O)(OC(C)(C)C)NOCCO | C7H15NO4
reactant | 2-bromoisobutyric acid | 84 mmol, 22.2 g | BrC(C(=O)O)(C)C | C4H7BrO2
reactant | triethylamine | 83 mmol, 11.5 mL, 1.01 eq. | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | N-Boc-(2-(aminooxy)ethyl) 2-bromo-2-methylpropanoate | 20.8 g, 78% | BrC(C(=O)OCCONC(=O)OC(C)(C)C)(C)C | C11H20BrNO5
